US06960601B2
In a 20-mL screw-cap vial, 250 mg (0.75 mmol) 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid, 18.3 mg DMAP (0.15 mmol), 1.25 g PS-Carbodimide (1.5 mmol) (polystyrene-supported cyclohexylcarbodiimide, Argonaut Technologies Inc., San Carlos, Calif.), 169 mg α,α,α-trifluoro-p-toluenesulfonamide (0.75 mmol), and 12 mL dichloromethane were added, and the reaction mixture was mixed by orbital shaking at rt overnight. The reaction mixture was filtered through a filter tube (polypropylene frit), and the filtrate was evaporated under reduced pressure. The crude product was redissolved in 2 mL MeOH and purified by preparative HPLC to give 39.3 mg of N-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-(trifluoromethyl)benzenesulfonamide (beige solid, 10% yield). 1H NMR (400 MHz, CD3COCD3) δ 8.25 (d, 2 H), 7.85 (s, 1 H), 7.75 (s, 2H), 7.20-7.40 (m, 6 H), 6.95 (t, 2 H); LC-MS m/z 540 (MH+), retention time 3.36 min (method 2).

reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid | 0.75 mmol, 250 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O2
reactant | Carbodimide | 1.5 mmol | N=C=N | CH2N2
reactant | α,α,α-trifluoro-p-toluenesulfonamide | 0.75 mmol, 169 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N)(F)F | C7H6F3NO2S
catalyst | DMAP | 0.15 mmol, 18.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | N-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-(trifluoromethyl)benzenesulfonamide | 39.3 mg, 10% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)Cl | C23H14Cl2F3N3O3S
